* C:\Users\Jabro\Documents\Perosnal Projects\PWM-Control-\Spice Components models\Draft1.asc
V1 N002 0 4
V2 N003 0 PULSE(0 5 0 5u 5u 0 10u)
V3 N001 0 5
XU1 N002 N003 N001 0 out TLV3231
.tran 0 .0001 0
.lib C:\Users\Jabro\Documents\Perosnal Projects\PWM-Control-\Spice Components models\tlv3231.lib
.backanno
.end
