* source TLV3231
.EXTERNAL INPUT OUT
.EXTERNAL INPUT V+
.EXTERNAL INPUT V-
.EXTERNAL INPUT IN-
.EXTERNAL INPUT IN+
X_U1         IN+ IN- V+ V- OUT TLV3231
V_VINN3         V- 0 -2.5
V_VINN         IN- 0 0
V_V1         IN+ 0  
+PULSE -2.5 2.5 0 10u 10u 5u 
V_VINN4         V+ 0 2.5
